US08258144B2
A solution of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (70 mg, 0.37 mmol), 1,5-diaminopentane (0.130 mL, 1.11 mmol) and triethylamine (0.150 mL, 1.08 mmol) in nBuOH (3 mL) was stirred at 70° C. for 1 h. It was then purified by HPLC to give N-(5-aminopentyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine as a solid (79 mg).

reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 0.37 mmol, 70 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | 1,5-diaminopentane | 1.11 mmol, 0.130 mL | NCCCCCN | C5H14N2
reactant | triethylamine | 1.08 mmol, 0.150 mL | C(C)N(CC)CC | C6H15N
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | N-(5-aminopentyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 79 mg | NCCCCCNC=1C2=C(N=C(N1)Cl)NC=C2 | C11H16ClN5
